US07547680B2
2-[3-(4-Benzyloxybutylamino)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-Chloro-1-(β-D-ribofuranosyl)-1H-benzimidazole (0.14 g) and 3-(4-benzyloxybutylamino)benzylamine (0.36 g) were suspended in isobutanol (5 mL). To the mixture was added triethylamine (0.56 mL), and the mixture was refluxed for 16 hours. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=70/30-10/90) to give the title compound (0.08 g).

reactant | 2-Chloro-1-(β-D-ribofuranosyl)-1H-benzimidazole | 0.14 g | ClC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C=CC=C2 | C12H13ClN2O4
reactant | 3-(4-benzyloxybutylamino)benzylamine | 0.36 g | C(C1=CC=CC=C1)OCCCCNC=1C=C(CN)C=CC1 | C18H24N2O
reactant | triethylamine | 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | isobutanol | 5 mL | C(C(C)C)O | C4H10O
product | 2-[3-(4-Benzyloxybutylamino)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 0.08 g | C(C1=CC=CC=C1)OCCCCNC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C30H36N4O5
